### PR TITLE
[Merged by Bors] - feat: port Analysis.Normed.Field.Basic

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 1]
```diff
@@ -114,13 +126,14 @@ instance (priority := 100) NormedCommRing.toSeminormedCommRing [β : NormedCommR
   { β with }
 #align normed_comm_ring.to_semi_normed_comm_ring NormedCommRing.toSeminormedCommRing
 
-instance : NormedCommRing PUnit :=
+instance PUint.normedCommRing : NormedCommRing PUnit :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:129]:
```suggestion
instance PUnit.normedCommRing : NormedCommRing PUnit :=
```

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 2]
```diff
@@ -10,7 +10,7 @@ Authors: Patrick Massot, Johannes Hölzl
 -/
 import Mathlib.Algebra.Algebra.Subalgebra.Basic
 import Mathlib.Analysis.Normed.Group.Basic
-import Mathlib.Topology.Instances.Ennreal
+import Mathlib.Topology.Instances.ENNReal
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:13]: We have a couple of these in the port script already; could you add this one?

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 3]
```diff
@@ -196,37 +211,38 @@ theorem one_le_nnnorm_one (β) [NormedRing β] [Nontrivial β] : 1 ≤ ‖(1 : 
...
 
 theorem Filter.Tendsto.zero_mul_isBoundedUnder_le {f g : ι → α} {l : Filter ι}
-    (hf : Tendsto f l (𝓝 0)) (hg : IsBoundedUnder (· ≤ ·) l (norm ∘ g)) :
+    (hf : Tendsto f l (𝓝 0)) (hg : IsBoundedUnder (· ≤ ·) l ((‖·‖) ∘ g)) :
     Tendsto (fun x => f x * g x) l (𝓝 0) :=
   hf.op_zero_isBoundedUnder_le hg (· * ·) norm_mul_le
 #align filter.tendsto.zero_mul_is_bounded_under_le Filter.Tendsto.zero_mul_isBoundedUnder_le
 
-theorem Filter.IsBoundedUnderLe.mul_tendsto_zero {f g : ι → α} {l : Filter ι}
+theorem Filter.IsBoundedUnder_le.mul_tendsto_zero {f g : ι → α} {l : Filter ι}
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:219]: Maybe it should be `Filter.isBoundedUnder_le_mul_tendsto_zero`, since dot notation can't work anyway

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 4]
```diff
@@ -344,16 +359,17 @@ theorem Finset.nnnorm_prod_le {α : Type _} [NormedCommRing α] [NormOneClass α
 /-- If `α` is a seminormed ring, then `‖a ^ n‖₊ ≤ ‖a‖₊ ^ n` for `n > 0`.
 See also `nnnorm_pow_le`. -/
 theorem nnnorm_pow_le' (a : α) : ∀ {n : ℕ}, 0 < n → ‖a ^ n‖₊ ≤ ‖a‖₊ ^ n
-  | 1, h => by simp only [pow_one]
-  | n + 2, h => by
+  | 1, _ => by simp only [pow_one]; rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:362]: I might have used
```suggestion
  | 1, _ => by simp only [pow_one, le_rfl]
```

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 5]
```diff
@@ -430,54 +447,66 @@ theorem Units.nnnorm_pos [Nontrivial α] (x : αˣ) : 0 < ‖(x : α)‖₊ :=
...
+        refine' Tendsto.add _ _
+        rw [←mul_zero (‖x.fst‖)]
+        refine' Filter.Tendsto.mul _ _
+        exact (continuous_fst.tendsto x).norm
+        rw [←norm_zero (E := α), ←sub_self x.snd]
+        exact ((continuous_snd.tendsto x).sub tendsto_const_nhds).norm
+        rw [←zero_mul (‖x.snd‖)]
+        refine' Filter.Tendsto.mul _ tendsto_const_nhds
+        rw [←norm_zero (E := α), ←sub_self x.fst]
+        exact ((continuous_fst.tendsto x).sub tendsto_const_nhds).norm⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:504]: I'd structure this:
```suggestion
        refine' Tendsto.add _ _
        · rw [←mul_zero (‖x.fst‖)]
          refine' Filter.Tendsto.mul _ _
          · exact (continuous_fst.tendsto x).norm
          · rw [←norm_zero (E := α), ←sub_self x.snd]
            exact ((continuous_snd.tendsto x).sub tendsto_const_nhds).norm
        · rw [←zero_mul (‖x.snd‖)]
          refine' Filter.Tendsto.mul _ tendsto_const_nhds
          rw [←norm_zero (E := α), ←sub_self x.fst]
          exact ((continuous_fst.tendsto x).sub tendsto_const_nhds).norm⟩
```


or with the new refine:
```suggestion
        refine Tendsto.add ?_ ?_
        · rw [←mul_zero (‖x.fst‖)]
          refine Filter.Tendsto.mul ?_ ?_
          · exact (continuous_fst.tendsto x).norm
          · rw [←norm_zero (E := α), ←sub_self x.snd]
            exact ((continuous_snd.tendsto x).sub tendsto_const_nhds).norm
        · rw [←zero_mul (‖x.snd‖)]
          refine Filter.Tendsto.mul ?_ tendsto_const_nhds
          rw [←norm_zero (E := α), ←sub_self x.fst]
          exact ((continuous_fst.tendsto x).sub tendsto_const_nhds).norm⟩
```

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,1052 @@
...
+instance Rat.normedField : NormedField ℚ :=
+  { Rat.normedAddCommGroup, Rat.field with
+    norm_mul' := fun r₁ r₂ => by simp only [norm, Rat.cast_mul, abs_mul] }
+
+instance Rat.denselyNormedField : DenselyNormedField ℚ where
+  lt_norm_lt r₁ r₂ h₀ hr :=
+    let ⟨q, h⟩ := exists_rat_btwn hr
+    ⟨q, by
+      show _ < |(q : ℝ)| ∧ |(q : ℝ)| < _
+      rwa [abs_of_pos (h₀.trans_lt h.1)]⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:897]:
```suggestion
    ⟨q, by rwa [←Rat.norm_cast_real, Real.norm_eq_abs, abs_of_pos (h₀.trans_lt h.1)]⟩
```

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
lgtm otherwise
